US06399644B1
To sodium hydride (0.52 g, 12.9 mmol) in tetrahydrofuran (20 mL) at 0° C. was added 2,6-dibromo-N-(1,1-dimethylethyl) benzenesulfonamide (4.0 g, 10.8 mmol). The resulting mixture was stirred at ambient temperature for 2-3 h, cooled to −780° C. and treated with n-BuLi (1.6 M in hexanes, 7.4 mL, 11.9 mmol) over a period of 20 min. The reaction was continued to stir for 40 min and treated with N,N-dimethyl formamide (0.9 mL, 11.9 mL). The cooling bath was removed and the mixture continued to stir over a period of 20 min. The work-up consisted of slowly quenching the reaction with 1N NaCl, dilution with water and extraction with ethyl acetate. Drying over sodium sulfate and concentrating under reduced pressure provided the crude product that was purified by the flash chromatography (ethyl acetate/hexane, 1:4) to afford the 7-bromo-2-(1,1-dimethylethyl)-2,3-dihydro-1,2-benzisothiazol-3-ol 1,1-dioxide (2.1 g, 55 %). 1H NMR (CD3OD): δ1.61 (s, 9H), 6.02 (s, 1H), 7.61 (m, 2H), 7.77 (m, 1H).

reactant | sodium hydride | 12.9 mmol, 0.52 g | [H-].[Na+]
reactant | 2,6-dibromo-N-(1,1-dimethylethyl) benzenesulfonamide | 10.8 mmol, 4.0 g | BrC1=C(C(=CC=C1)Br)S(=O)(=O)NC(C)(C)C | C10H13Br2NO2S
reactant | n-BuLi | 11.9 mmol, 1.6 M, 7.4 mL | [Li]CCCC
reactant | N,N-dimethyl formamide | 0.9 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 7-bromo-2-(1,1-dimethylethyl)-2,3-dihydro-1,2-benzisothiazol-3-ol 1,1-dioxide | 2.1 g, 55 % | BrC1=CC=CC=2C(N(S(C21)(=O)=O)C(C)(C)C)O | C11H14BrNO3S
